US08703096B2
N-(4-(6-bromoindolizin-2-yl)-2-methylphenyl)-2,2,2-trifluoroacetamide (L17).
N-(4-(2-bromoacetyl)-2-methylphenyl)-2,2,2-trifluoroacetamide (3.0 g; 9.26 mmol) and 5-bromopyridin-2-amine (1.5 g; 8.67 mmol) were dissolved in 20 mL ethanol. The mixture was refluxed overnight, and the solvent was removed. CH2Cl2 was added to precipitate a solid, which was filtered and washed with CH2Cl2, to afford 1.0 g (yield 28%) of product as a yellow powder. 1H NMR (300 MHz; DMSO-d6), δ 11.1 (s, 1H, NH), 9.14 (s, 1H, Ar—H), 8.60 (s, 1H, Ar—H), 7.90-7.76 (m, 4H, Ar—H), 7.46 (d, 3JHH=8.0 Hz, 1H, Ar—H), 2.19 (s, 3H, Ar—CH3).

reactant | N-(4-(2-bromoacetyl)-2-methylphenyl)-2,2,2-trifluoroacetamide | 9.26 mmol, 3.0 g | BrCC(=O)C1=CC(=C(C=C1)NC(C(F)(F)F)=O)C | C11H9BrF3NO2
reactant | 5-bromopyridin-2-amine | 8.67 mmol, 1.5 g | BrC=1C=CC(=NC1)N | C5H5BrN2
reactant | ethanol | 20 mL | C(C)O | C2H6O
product | N-(4-(6-bromoindolizin-2-yl)-2-methylphenyl)-2,2,2-trifluoroacetamide | 1.0 g, yield 28% | BrC1=CN2C=C(C=C2C=C1)C1=CC(=C(C=C1)NC(C(F)(F)F)=O)C | C17H12BrF3N2O
